US06300363B1
Step 1. 3-Amino-2-benzoyl-5-chloro-1-(ethoxycarbonyl)indole
The title compound was prepared according to the procedure described in step 2 of Example 1 from 5-chloro-2-(ethoxycarbonylamino)benzonitrile (K. O. Geolotte et al, J. Heterocyclic Chem., 1990, 27, 1549) and 2-bromoacetophenone.

reactant | 5-chloro-2-(ethoxycarbonylamino)benzonitrile | ClC=1C=CC(=C(C#N)C1)NC(=O)OCC | C10H9ClN2O2
reactant | 2-bromoacetophenone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
product | 3-Amino-2-benzoyl-5-chloro-1-(ethoxycarbonyl)indole | NC1=C(N(C2=CC=C(C=C12)Cl)C(=O)OCC)C(C1=CC=CC=C1)=O | C18H15ClN2O3
